US07129239B2
Preparation of Intermediate 6-Chloro-9-(4-chlorophenyl)-8-(2-fluorophenyl)-2-methyl-9H-purine (I-(7A-80)c)
A solution of N-[4-chloro-6-(4-chlorophenylamino)-2-methylpyrimidin-5-yl]-2-fluorobenzamide I-(7A-80)b (0.25 g) in dioxane (6 ml) was treated with 50% propanephosphoric acid cyclic anhydride (PPM) in ethyl acetate (0.6 ml) and heated to reflux overnight. It was determined that the product was a mixture of desired product and the hydroxy compound (displacement of the chlorine atom). The reaction was therefore concentrated under reduced pressure and heated overnight in refluxing POCl3 (6 ml). The reaction mixture was concentrated to dryness, diluted with ethyl acetate, and poured onto ice. Saturated NaHCO3 solution was added next and the mixture stirred. The organic layer was separated, washed with brine, dried (Na2SO4), filtered, and concentrated to dryness. The crude product was purified via TLC preparative plate using 5% methanol/methylene chloride as the solvent to obtain the desired compound I-(7A-80)c (88 mg, 42% from 4,6-dichloro-2-isopropyl-pyrimidin-5-ylamine) as a solid: +ESI MS (M+1) 373.2; 1H NMR (400 MHz, CDCl3) δ 7.80–6.90 (m, 8H), 2.76 (s, 3H).

reactant | N-[4-chloro-6-(4-chlorophenylamino)-2-methylpyrimidin-5-yl]-2-fluorobenzamide | ClC1=NC(=NC(=C1NC(C1=C(C=CC=C1)F)=O)NC1=CC=C(C=C1)Cl)C | C18H13Cl2FN4O
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 0.6 ml | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-9-(4-chlorophenyl)-8-(2-fluorophenyl)-2-methyl-9H-purine | ClC1=C2N=C(N(C2=NC(=N1)C)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)F | C18H11Cl2FN4
